US07652138B2
I.5: methyl 4,4′-dimethylbenzilate 3e
At 20° C., 12.43 g (0.048 mol) of 4,4′-dimethylbenzilic acid in 50 ml ethanol is added dropwise to freshly prepared sodium ethoxide solution containing 1.1 g (0.045 mol) of sodium and 100 ml of ethanol and the mixture is stirred for 30 minutes. The solution is evaporated to dryness, the residue dissolved in 50 ml of DMF, 9.08 g (0.064 mol) of methyl iodide is added dropwise at 20° C., and stirring is continued for a further 24 hours. 300 ml of water are added dropwise to the resulting suspension while cooling with ice, the mixture is extracted with diethylether; the organic phase is washed with water, dried over Na2SO4, and evaporated to dryness. Yield: 8.6 g (99% of theory); melting point: 83° C.-84° C.

reactant | 4,4′-dimethylbenzilic acid | 0.048 mol, 12.43 g | CC1=CC=C(C(C(=O)O)(O)C2=CC=C(C=C2)C)C=C1 | C16H16O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.045 mol, 1.1 g | [Na] | Na
reactant | methyl iodide | 0.064 mol, 9.08 g | CI | CH3I
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | methyl 4,4′-dimethylbenzilate | CC1=CC=C(C(C(=O)OC)(O)C2=CC=C(C=C2)C)C=C1 | C17H18O3
